US09216173B2
A mixture of benzyl tert-butyl (3-ethoxypropane-1,2-diyl)biscarbamate (3.0 g, 8.5 mmol) in hydrochloric acid (4.0 M in methanol, 20 mL, 80 mmol) was stirred at ambient temperature. After 2 hours, the reaction mixture was concentrated under reduced pressure to give benzyl (2-amino-3-ethoxypropyl)carbamate. MS ESI calc'd. for C13H21N2O3 [M+H]+ 253. found 253. 1H NMR (400 MHz, CD3OD) δ 7.45-7.26 (m, 5H), 5.13 (s, 2H), 3.67-3.51 (m, 4H), 3.45-3.39 (m, 3H), 1.24 (t, J=7.0 Hz, 3H).

reactant | benzyl tert-butyl (3-ethoxypropane-1,2-diyl)biscarbamate | 8.5 mmol, 3.0 g | C(C)OCC(CNC(OCC1=CC=CC=C1)=O)NC(OC(C)(C)C)=O | C18H28N2O5
reactant | hydrochloric acid | 80 mmol, 4.0 M, 20 mL | Cl | ClH
product | benzyl (2-amino-3-ethoxypropyl)carbamate | NC(CNC(OCC1=CC=CC=C1)=O)COCC | C13H20N2O3
